US07153874B2
Step 5: 4-(tert-Butyl-dimethyl-silanyloxymethyl)-1-(4-fluoro-phenyl)-2-methyl-1H-imidazole
4-(tert-Butyl-dimethyl-silanyloxymethyl)-1-(4-fluoro-phenyl)-1H-imidazole (18.2 g, 59.2 mmol) was dissolved in 600 mL dry THF and cooled to −78° C. n-Butyl lithium (55.5 mL, 1.6M in hexane, 88.8 mmol) was added dropwise. The reaction mixture was warmed up to −25° C., kept at −25° C. for 10 min and then cooled again to −78° C. Iodomethane (7.4 mL, 11.9 mmol) was added dropwise. The reaction mixture was slowly warmed up to RT and stirred at RT overnight. The solvent was evaporated. The residue was taken up in 300 mL water and extracted three times with ethyl acetate (200 mL each). The combined organic extracts were dried with magnesium sulfate, filtered and evaporated. The crude product was purified by column chromatography on silica gel (cyclohexane/ethyl acetate 50:50→20:80 gradient) and the desired compound was obtained as an orange oil (14.7 g, 77%), MS: m/e=321.1 (M+H+).

reactant | 4-(tert-Butyl-dimethyl-silanyloxymethyl)-1-(4-fluoro-phenyl)-1H-imidazole | 59.2 mmol, 18.2 g | C(C)(C)(C)[SiH2]OC(C=1N=CN(C1)C1=CC=C(C=C1)F)(C)C | C16H23FN2OSi
reactant | n-Butyl lithium | 88.8 mmol, 1.6M, 55.5 mL | C(CCC)[Li]
reactant | Iodomethane | 11.9 mmol, 7.4 mL | IC | CH3I
solvent | THF | 600 mL | C1CCOC1 | C4H8O
product | 4-(tert-Butyl-dimethyl-silanyloxymethyl)-1-(4-fluoro-phenyl)-2-methyl-1H-imidazole | C(C)(C)(C)[SiH2]OC(C=1N=C(N(C1)C1=CC=C(C=C1)F)C)(C)C | C17H25FN2OSi
